US05486533
To a Grignard reagent prepared from 12 g magnesium, 250 ml ether and 100 g 1-bromo-4-(1,1-dimethylethyl)benzene were added 50 g 3-chloro-1-propene dissolved in 150 ml ether. After the addition, the mixture was refluxed for one hour and kept stirring overnight at room temperature. The reaction mixture was then poured onto crushed ice and acidified with hydrochloric acid to dissolve any precipitated solid. The ether solution was separated, washed with water, and dried with anhydrous sodium sulfate, solvent removed and product distilled to provide 40 g of 1-(1,1-dimethylethyl)-4-(2-propenyl)benzene, listed in Table 1 as compound I-1. The product was characterized by a boiling point of 65°-66° C. at a pressure of 0.25 mm Hg.

reactant | magnesium | 12 g | [Mg] | Mg
reactant | 1-bromo-4-(1,1-dimethylethyl)benzene | 100 g | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | 3-chloro-1-propene | 50 g | ClCC=C | C3H5Cl
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 1-(1,1-dimethylethyl)-4-(2-propenyl)benzene | 40 g | CC(C)(C)C1=CC=C(C=C1)CC=C | C13H18
